US05728835
4-Benzoylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-pyridyl)benzamide
4-Amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-pyridyl)benzamide (225.3 mg, 0.50 mmol) was dissolved in methylene chloride (2.0 ml) to which were subsequently added pyridine (0.05 ml, 0.62 mmol) and benzoyl chloride (0.09 ml, 0.77 mmol). After 14 hours of stirring at room temperature, the reaction solution was mixed with saturated sodium bicarbonate aqueous solution and extracted with chloroform. The resulting organic layer was washed with saturated sodium chloride aqueous solution and water in that order, and dried on anhydrous sodium sulfate. Thereafter, the solvent was removed by evaporation, and the resulting residue was purified by silica gel column chromatography (chloroform:methanol=20:1) and recrystallization (ethyl acetate-ether) to obtain 196.3 mg (70.6%) of the title compound in a light brown powder form.

reactant | 4-Amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-pyridyl)benzamide | 0.50 mmol, 225.3 mg | NC1=CC=C(C(=O)N(C=2C=NC=CC2)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C26H27FN4O2
reactant | pyridine | 0.62 mmol, 0.05 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.77 mmol, 0.09 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2.0 ml | C(Cl)Cl | CH2Cl2
product | 4-Benzoylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-pyridyl)benzamide | 196.3 mg, 70.6% | C(C1=CC=CC=C1)(=O)NC1=CC=C(C(=O)N(C=2C=NC=CC2)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C33H31FN4O3
